US08034945B2
(c). 3-Bromo-5-(3-cyano-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinolin-4-yl)-2-(3-methoxy-benzyloxy)-benzoic acid
A solution of 3-bromo-5-(3-cyano-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinolin-4-yl)-2-(3-methoxy-benzyloxy)-benzoic acid methyl ester (5.7 g) in dioxane (135 ml) and 1N NaOH (15 ml) was stirred for 17 h. The mixture was acidified with conc. acetic acid and extracted with ethyl acetate. The organic layer was dried (MgSO4), filtered and concentrated in vacuo. The residue was dissolved in ethanol and then concentrated until a solid precipitated. The solid was collected by filtration and washed with petroleum ether.

reactant | 3-bromo-5-(3-cyano-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinolin-4-yl)-2-(3-methoxy-benzyloxy)-benzoic acid methyl ester | 5.7 g | COC(C1=C(C(=CC(=C1)C1C(=C(NC=2CC(CC(C12)=O)CCC)C)C#N)Br)OCC1=CC(=CC=C1)OC)=O | C30H31BrN2O5
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dioxane | 135 ml | O1CCOCC1 | C4H8O2
solvent | NaOH | 1N, 15 ml | [OH-].[Na+]
product | 3-Bromo-5-(3-cyano-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinolin-4-yl)-2-(3-methoxy-benzyloxy)-benzoic acid | BrC=1C(=C(C(=O)O)C=C(C1)C1C(=C(NC=2CC(CC(C12)=O)CCC)C)C#N)OCC1=CC(=CC=C1)OC | C29H29BrN2O5
